US04552866
(B) N-[N-[N-[(3S)-3-[[(t-Butyloxy)carbonyl]amino]-2-oxo-5-methylhexyl]-L-leucyl]-L-valyl]-L-phenyl-alanine, methyl ester
A mixture of 856 mg (2 mmol) of L-leucyl-L-valyl-L-phenylalanine, methyl ester, hydrochloride, 100 mg (0.668 mmol) of sodium iodide, and 352 mg (4.2 mmol) of sodium bicarbonate in 3 ml of dimethylformamide was treated with 580 mg (2.2 mmol) of [(t-butyloxy)carbonyl]-L-leucine chloromethyl ketone dissolved in 2 ml of dimethylformamide, and the reaction was stirred at room temperature under a flow of nitrogen overnight. The reaction was then diluted with a mixture of 80 ml of ethyl acetate and 20 ml of ether, then washed with 20 ml portions of water (2x), 5% aqueous sodium bisulfite, water (2x), brine, dried (magnesium sulfate), and concentrated in vacuo to afford 1.1 g of crude product. Flash chromatography on 30 g of LPS-1 silica gel eluting with a 5:1 mixture of petroleum ether:acetone afforded 680 mg of partially purified product. Recrystallization from acetone:petroleum ether afforded 490 mg of the title compound, melting point 127°-129° C.

reactant | L-leucyl-L-valyl-L-phenylalanine, methyl ester, hydrochloride | 2 mmol, 856 mg | Cl.N[C@@H](CC(C)C)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OC
reactant | sodium iodide | 0.668 mmol, 100 mg | [I-].[Na+]
reactant | sodium bicarbonate | 4.2 mmol, 352 mg | C([O-])(O)=O.[Na+]
reactant | [(t-butyloxy)carbonyl]-L-leucine chloromethyl ketone | 2.2 mmol, 580 mg | ClCC(=O)CCl.C(C)(C)(C)OC(=O)N[C@@H](CC(C)C)C(=O)O
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 80 ml | C(C)(=O)OCC | C4H8O2
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | acetone | CC(=O)C | C3H6O
product | N-[N-[N-[(3S)-3-[[(t-Butyloxy)carbonyl]amino]-2-oxo-5-methylhexyl]-L-leucyl]-L-valyl]-L-phenyl-alanine, methyl ester | 490 mg | C(C)(C)(C)OC(=O)N[C@H](C(CN[C@@H](CC(C)C)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OC)=O)CC(C)C | C33H54N4O7
